US05472983
N-isobutyl 3.5-dinitrobenzamide (CPI1064)
The general procedure was used with isobutyl amine (14.6 g, 0.200 mole) and 3,5-dinitrobenzoyl chloride (23.0 g, 0.100 mole) in ethyl acetate. Produced 7.28 g (26%) crystals, mp 149°-155° C. Proton NMR (90 MHz) shows resonances at 9.168 ppm (m, 1H; 4-aryl H); 8.955 ppm (d, 2 Hz, 2H; 2,6-aryl H's); 6.526 ppm (bs, 1H; N-H); 3.378 ppm (t, 6.4 Hz, 2H; N-CH2); 2.050 ppm (sep, 7 Hz, 1H; CH); 1.021 ppm (d, 6.2 Hz, 6H; CH3).

reactant | isobutyl amine | 0.200 mole, 14.6 g | C(C(C)C)N | C4H11N
reactant | 3,5-dinitrobenzoyl chloride | 0.100 mole, 23.0 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=C(C1)[N+](=O)[O-] | C7H3ClN2O5
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-isobutyl 3.5-dinitrobenzamide | 7.28 g, 26% | C(C(C)C)NC(C1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C11H13N3O5
